US07132426B2
In a reaction vial was place a stir bar, NaH (60% in oil, 110 mg), 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (70 mg) and THF (3 mL). The mixture was stirred at room temperature for 15 min under N2. {2-[2-(4-Chloro-pyrazolo[3,4-d]pyrimidin-1-yl)-5-methanesulfonyl-phenoxy]-ethyl}-dimethyl-amine was then added. The mixture was stirred at 80° C. for 30 min. After cooled down to room temperature, the reaction was quenched with H2O and product was extracted with CH2Cl2. The organic extracts were concentrated under vacuum. The residue was purified by silica column chromatography using 20% MeOH/CH2Cl2 as eluent to give 4-{1-[2-(2-dimethylamino-ethoxy)-4-methanesulfonyl-phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy}-piperidine-1-carboxylic acid tert-butyl ester. 1HNMR (CDCl3,400 MHz) δ 1.49 (s, 9H), 1.88 (m, 2H), 2.10 (m, 2H), 2.20 (s, 6H), 2.67 (t, 2H), 3.10 (s, 3H), 3.32 (m, 2H), 3.87 (m, 2H), 4.28 (t, 2H), 5.59 (m, 1H), 7.70 (m, 3H), 8.25 (s, 1H), 8.54 (s, 1H). Exact mass calculated for C26H36N6O6S 560.24, found 561.4 (MH+).

reactant | NaH | 110 mg | [H-].[Na+]
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | {2-[2-(4-Chloro-pyrazolo[3,4-d]pyrimidin-1-yl)-5-methanesulfonyl-phenoxy]-ethyl}-dimethyl-amine | ClC1=C2C(=NC=N1)N(N=C2)C2=C(OCCN(C)C)C=C(C=C2)S(=O)(=O)C | C16H18ClN5O3S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-{1-[2-(2-dimethylamino-ethoxy)-4-methanesulfonyl-phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)OCCN(C)C | C26H36N6O6S
